US03989681
Preparation of 1,3-dihydro-7-hydroxyamino-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one
A mixture of 15 g. (0.05 mol) of 1,3-dihydro-1-methyl-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one, 250 ml. of tetrahydrofuran, 250 ml. of methanol, 56 g. of stannous chloride dihydrate and 68 g. of sodium acetate trihydrate was stirred under nitrogen for 3 hours. 1 l. of methylene chloride and 15 ml. of concentrated ammonia was added. The inorganic material was separated by filtration over celite. The filtrate was washed with 1N sodium hydroxide solution, was dried over sodium sulfate and evaporated. Crystallization of the residue from methylene chloride and recrystallization from ethanol/methylene chloride yielded light yellow product with m.p. 211°-213°.

reactant | 1,3-dihydro-1-methyl-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.05 mol | CN1C(CN=C(C2=C1C=CC(=C2)[N+](=O)[O-])C2=CC=CC=C2)=O | C16H13N3O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1,3-dihydro-7-hydroxyamino-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | ONC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H15N3O2
